US07662771B2
Add triethylamine (8.1 g, 79.9 mmol) dropwise to a solution of 2-amino-1-(2-methoxyphenyl)ethanone hydrochloride (13.6 g, 67.4 mmol) and octanedioic acid monomethyl ester (14.0 g, 74.2 mmol) in methylene chloride (600 mL) at 0° C. under nitrogen, and then add EDC HCl (15.5 g, 81.0 mmol). Stir the mixture for 4 hours and warm to room temperature with stirring for an additional 18 hours. Dilute the mixture in ethyl acetate (1.2 L), wash sequentially with water (300 mL), 1 N HCl (300 mL), brine (300 mL), saturated sodium, bicarbonate solution (300 mL) and brine (300 mL), and dry over sodium sulfate. Remove the solvent under reduced pressure to afford 7-[2-(2-methoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester (20.0 g, 88%), which is used in the next step without further purification.

reactant | triethylamine | 79.9 mmol, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-(2-methoxyphenyl)ethanone hydrochloride | 67.4 mmol, 13.6 g | Cl.NCC(=O)C1=C(C=CC=C1)OC
reactant | octanedioic acid monomethyl ester | 74.2 mmol, 14.0 g | COC(CCCCCCC(=O)O)=O | C9H16O4
reactant | EDC HCl | 81.0 mmol, 15.5 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2-methoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester | 20.0 g, 88% | COC(CCCCCCC(NCC(=O)C1=C(C=CC=C1)OC)=O)=O | C18H25NO5
